US06140100
According to example 81, 2.50 g of tert-butyl- (2R, 3S)-(-)-6-oxo-2,3-diphenyl-4-morpholinecarboxylate (Aldrich) was alkylated with 1.59 g of 3-cyclobutylbenzyl bromide in 80 mL of anhydrous THF using 7.41 mL of 1M sodium bis(trimethylsilyl)amide in THF (Aldrich). The crude product was subjected to flash chromatography on 120 g of silica gel (8:2 hexane:EtOAc) and then recrystallization from EtOH-water to afford 1.90 g (54%) of tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-cyclobutylbenzyl)-4-morpholinecarboxylate as a white powder, m.p. 145-147° C.

reactant | tert-butyl- (2R, 3S)-(-)-6-oxo-2,3-diphenyl-4-morpholinecarboxylate | 2.50 g | C(C)(C)(C)OC(=O)N1[C@H]([C@H](OC(C1)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO4
reactant | 3-cyclobutylbenzyl bromide | 1.59 g | C1(CCC1)C=1C=C(CBr)C=CC1 | C11H13Br
reactant | sodium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-cyclobutylbenzyl)-4-morpholinecarboxylate | 1.90 g, 54% | O=C1O[C@@H]([C@@H](N([C@H]1CC1=CC(=CC=C1)C1CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C32H35NO4
